US06734179B2
To a solution of 0.12 g (0.28 mMol) 4-fluoro-N-[4-methoxy-7-(1,2,3,6-tetrahydro-pyridin-4-yl)-benzothiazol-2-yl]-benzamide hydrochloride in 3 ml THF were added 0.043 ml triethyl amine. At 0° C. 0.029 ml (0.31 mMol) acetic anhydride was added dropwise and stirred for 30 min. Then a mixture of 5 ml sat. aqueous sodium bicarbonate and 15 ml water were added. After extracting with four times 25 ml ethyl acetate the combined organic phases were dried over sodium sulfate and concentrated to dryness in vacuo to yield 0.088 g (73%) N-[7-(1-acetyl-1,2,3,6-tetrahydro-pyridin-4-yl)-4-methoxy-benzothiazol-2-yl]-4-fluoro-benzamide as an off-white solid; F.p.: 264-265° C.

reactant | 4-fluoro-N-[4-methoxy-7-(1,2,3,6-tetrahydro-pyridin-4-yl)-benzothiazol-2-yl]-benzamide hydrochloride | 0.28 mMol, 0.12 g | Cl.FC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C=3CCNCC3)OC)C=C1
reactant | triethyl amine | 0.043 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.31 mMol, 0.029 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | 15 ml | O | H2O
product | N-[7-(1-acetyl-1,2,3,6-tetrahydro-pyridin-4-yl)-4-methoxy-benzothiazol-2-yl]-4-fluoro-benzamide | 0.088 g, 73% | C(C)(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)F)=O)OC | C22H20FN3O3S
